US04766131
3,4-Dihydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride
To a stirred solution of N-acetyl-3,4-dimethoxyphenethylamine (112.1 g, 0.502 m) in toluene (600 ml) maintained at 90°-95° was added dropwise phosphorusoxychloride (180.9 g, 112 ml, 1.179 mole) over a period of 1 hour. The mixture was heated to reflux for 2 hr, cooled to ambient temperature, and the solid hydrochloride salt collected by filtration, 170.4 g (wet with toluene). m.p. (after drying) 202°-203°.

reactant | N-acetyl-3,4-dimethoxyphenethylamine | 112.1 g | C(C)(=O)NCCC1=CC(=C(C=C1)OC)OC | C12H17NO3
reactant | phosphorusoxychloride | 1.179 mole, 112 ml, 180.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dihydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride | Cl.COC=1C=C2CCN=C(C2=CC1OC)C | InChI=1S/C12H15NO2.ClH/c1-8-10-7-12(15-3)11(14-2)6-9(10)4-5-13-8;/h6-7H,4-5H2,1-3H3;1H
